US05518841
One point five (1.5) g (0.01 mole) of 2,5-dimercapto-1,3,4-thiadiazole (hereinafter referred to "DMcT") monomer powder were dissolved in 3 g (0.03 mole) of N-methyl-2-pyrrolidone (hereinafter referred to "NMP") to obtain a yellowish transparent viscous DMcT-NMP solution. To this solution, were added 0.5 g (0.003 mole) of polyaniline powder ("ANILEAD" available from Nitto Denko Corp., Japan) and the combined solution was then heated at 80° C. in a sealed container whose inner atmosphere was replaced by an inert gas to obtain a black purple non-transparent composite product having certain adhesive property. The composite product thus obtained was printed on an electrically-conductive carbon film with a thickness of 20 μm, composed of carbon black and a fluorocarbon resin, in a manner to give a layer with a thickness of 200 μm over the film. The printed film was punched into disks having a diameter of 12.5 mm to give an electrode A.

reactant | 2,5-dimercapto-1,3,4-thiadiazole | 0.01 mole | SC=1SC(=NN1)S | C2H2N2S3
reactant | NMP | CN1C(CCC1)=O | C5H9NO
reactant | N-methyl-2-pyrrolidone | 0.03 mole, 3 g | CN1C(CCC1)=O | C5H9NO
product | DMcT NMP | SC=1SC(=NN1)S.CN1C(CCC1)=O | InChI=1S/C5H9NO.C2H2N2S3/c1-6-4-2-3-5(6)7;5-1-3-4-2(6)7-1/h2-4H2,1H3;(H,3,5)(H,4,6)
